US07432257B2
To a solution of 3-fluoro-4-nitrobenzonitrile (6.3 g; 37.93 mmol) and 2-bromophenol (4.4 mL; 37.94 mmol) in DMF (50 mL) was added potassium carbonate (6.29 g; 45.51 mmol). The mixture was stirred for 5 h at rt. Water (100 mL) was added, and a precipitate formed. The solid was separated via filtration, washed with water, and dried to yield 11.20 g (92.5%) of 3-(2-bromo-phenoxy)-4-nitrobenzonitrile, 1a.

reactant | 3-fluoro-4-nitrobenzonitrile | 37.93 mmol, 6.3 g | FC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H3FN2O2
reactant | 2-bromophenol | 37.94 mmol, 4.4 mL | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | potassium carbonate | 45.51 mmol, 6.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 100 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-(2-bromo-phenoxy)-4-nitrobenzonitrile | 11.20 g, 92.5% | BrC1=C(OC=2C=C(C#N)C=CC2[N+](=O)[O-])C=CC=C1 | C13H7BrN2O3
